US07576090B2
N-(6-Nitrobenzothiazol-2-yl)nicotinamide (0.50 g, 1.67 mmol) was dissolved in dimethylsulfoxide (50 mL) by warming. After addition of palladium on charcoal (0.089 g, 10% Pd, 0.08 mmol Pd), the rntrre ,shydrogened for 5.5 h at 80° C. The palladium was removed by hot filtration through a pad of silica. After removal of the solvent, N-(6-aminobenzothiazol-2-yl)nicotinamide (0145 g, 1.67 mmol, 100%) was obtained as a brownish solid. LC/ESI-MS: m/z=271 [M+H]+; m/z=269 [M−H]−; Rt=1.67 min.

reactant | N-(6-Nitrobenzothiazol-2-yl)nicotinamide | 1.67 mmol, 0.50 g | [N+](=O)([O-])C1=CC2=C(N=C(S2)NC(C2=CN=CC=C2)=O)C=C1 | C13H8N4O3S
solvent | dimethylsulfoxide | 50 mL | CS(=O)C | C2H6OS
catalyst | palladium on charcoal | 0.08 mmol, 0.089 g | [Pd] | Pd
product | N-(6-aminobenzothiazol-2-yl)nicotinamide | 1.67 mmol, 100% | NC1=CC2=C(N=C(S2)NC(C2=CN=CC=C2)=O)C=C1 | C13H10N4OS
